US08293478B2
Compound 1: 4-bromo-5-(4-methoxyphenyl)-2(5H)-furanone (manufactured by SIGMA), Compound 2:
3,4-dibromo-5-hydroxy-2(5H)-furanone (manufactured by SIGMA), Compound 3: 4-bromo-5-methoxy-5-(4-methoxyphenyl)-2(5H)-furanone (manufactured by SIGMA), and Compound 4: 4-{[3-bromo-2-(4-methoxyphenyl)-5-oxo-2,5-dihydro-2-furanyl]oxy}benzoate (manufactured by SIGMA) were used as test drugs. As positive controls, three (3) kinds of known compounds as an AI-2 inhibitory compounds, such as Compound 5: 4-hydroxy-2,5-dimethyl-3(2H)-furanone (manufactured by SIGMA), Compound 6: 2-methoxy-2,4-diphenyl-3(2H)-furanone (manufactured by SIGMA), and Compound 7: 2-pentyl-2-cyclopentene-1-one (manufactured by SIGMA) were used (see Bassseler et al., Bacteriol. 179, p. 4043-4045, 1997; Yoshida A. et al., Appl. Environ. Microbiol., 71(5), p. 2372-2380, 2005; and Wen Z. T. et al., J. Bacteriol., 189(9), p. 2682-2691, 2004).

reactant | 3,4-dibromo-5-hydroxy-2(5H)-furanone | BrC=1C(OC(C1Br)O)=O | C4H2Br2O3
reactant | 4-bromo-5-methoxy-5-(4-methoxyphenyl)-2(5H)-furanone | BrC1=CC(OC1(C1=CC=C(C=C1)OC)OC)=O | C12H11BrO4
reactant | 4-{[3-bromo-2-(4-methoxyphenyl)-5-oxo-2,5-dihydro-2-furanyl]oxy}benzoate | BrC=1C(OC(C1)=O)(C1=CC=C(C=C1)OC)OC1=CC=C(C(=O)[O-])C=C1
reactant | AI-2 | [B-]1(O[C@@]2([C@](O1)([C@H](CO2)O)O)C)(O)O
reactant | 4-hydroxy-2,5-dimethyl-3(2H)-furanone | OC=1C(C(OC1C)C)=O | C6H8O3
reactant | 2-methoxy-2,4-diphenyl-3(2H)-furanone | COC1(OC=C(C1=O)C1=CC=CC=C1)C1=CC=CC=C1 | C17H14O3
reactant | 2-pentyl-2-cyclopentene-1-one | C(CCCC)C=1C(CCC1)=O | C10H16O
product | 4-bromo-5-(4-methoxyphenyl)-2(5H)-furanone | BrC1=CC(OC1C1=CC=C(C=C1)OC)=O | C11H9BrO3
